US05859007
N-Isopropyl-N-(4-methoxy-phenyl)-2-[3-(5-methyl-2H-pyrazol-3ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-acetamide
To a stirring solution of 194 mg (0.30 mmol) of 2-[3-(2-Benzyl-5-methyl-2H-pyrazol-3ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide, prepared as in Example 54, in 10 mL of 5% formic acid (v/v) in absolute ethanol is added 190 mg of 10% palladium on carbon. The resulting mixture is heated to reflux for 2 h, then cooled to RT and filtered through a pad of Celite to remove the catalyst. The filtrate is concentrated, then poured into 50 mL of EtOAc and washed successively with 1N NaOH (1×50 mL) and H2O (1×50 mL). The organic layer is separated, dried (MgSO4), and the solvents removed in vacuo. Purification by silica gel MPLC using EtOAc/chloroform 8/1 as eluent afforded 112 mg of the title compound as a white solid: mp 156°-159° C.; 1H NMR (CDCl3, 400 MHz) δ7.38-7.18 (m, 9H), 7.14 (d, 1H, J=8.7), 7.06 (t, 1H, J=7.3), 6.96 (m, 2H), 6.86 (d, 1H, J=7.6), 5.81 (s, 1H), 5.02 (m, 1H), 4.18 (dd, 2H, J=16.5, 86.1), 3.83 (s, 3H), 3.59 (t, 1H, J=6.8), 3.32 (ddd, 2H, J=7.5, 15.2, 34.3), 2.19 (s, 3H), 1.08 (m, 6H); low resolution MS (FAB)m/e 552 (MH+), 551 (M+), 387; Anal. (C32H33N5O4) Calcd. C, 69.67; H, 6.03; N, 12.70 Found C, 69.61; H, 6.11; N, 12.44.

reactant | 2-[3-(2-Benzyl-5-methyl-2H-pyrazol-3ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 0.30 mmol, 194 mg | C(C1=CC=CC=C1)N1N=C(C=C1CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O)C | C39H39N5O4
solvent | formic acid | 10 mL | C(=O)O | CH2O2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | 190 mg | [Pd] | Pd
product | N-Isopropyl-N-(4-methoxy-phenyl)-2-[3-(5-methyl-2H-pyrazol-3ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-acetamide | 112 mg | C(C)(C)N(C(CN1C2=C(N(C(C(C1=O)CC=1NN=C(C1)C)=O)C1=CC=CC=C1)C=CC=C2)=O)C2=CC=C(C=C2)OC | C32H33N5O4
